US08426437B2
8-Benzoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate (102)
Synthesis of 5-benzoyl-1,3-dihydro-indol-2-one is described by McNutt (WO99/10325). This compound was prepared according to this procedure from 665 g (5 mmol) of 1,3-dihydro-indol-2-one, aluminium trichloride (15 mmol) and benzoyl chloride (10 mmol) to give, after trituration in water and drying, 880 mg (74%) of 5-benzoyl-1,3-dihydro-indol-2-one in the form of a beige solid.

reactant | 5-benzoyl-1,3-dihydro-indol-2-one | C(C1=CC=CC=C1)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11NO2
reactant | 1,3-dihydro-indol-2-one | 5 mmol, 665 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | aluminium trichloride | 15 mmol | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | benzoyl chloride | 10 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 8-Benzoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | C(C1=CC=CC=C1)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H12N2O2.C3H6O2/c21-17(11-4-2-1-3-5-11)12-6-7-15-14(10-12)13-8-9-19-16(13)18(22)20-15;1-2-3(4)5/h1-10,19H,(H,20,22);2H2,1H3,(H,4,5)/p-1
